US04960778
STAGE A: 3-Methyl-6-(2-methylenepropionyl)benzoxazolinone
0.01 mole of 3-methyl-6-propionylbenzoxazolinone and 0.04 mole of bis(dimethylamino)methane are introduced into a 150-cm3 ground-necked flask equipped with a reflux condenser and a magnetic stirrer. 15 cm3 of acetic anhydride are added dropwise and the mixture is heated to 100° C. for 5 hours. After being cooled, the reaction mixture is poured into 5 volumes of ice-cold water. The mixture is acidified and stirred for one hour, and the product is drained, washed with water to neutrality, dried and recrystallized in hexane.

reactant | 3-methyl-6-propionylbenzoxazolinone | 0.01 mole | CN1C(OC2=C1C=CC(=C2)C(CC)=O)=O | C11H11NO3
reactant | bis(dimethylamino)methane | 0.04 mole | CN(C)CN(C)C | C5H14N2
reactant | acetic anhydride | 15 cm3 | C(C)(=O)OC(C)=O | C4H6O3
product | 3-Methyl-6-(2-methylenepropionyl)benzoxazolinone | CN1C(OC2=C1C=CC(=C2)C(C(C)=C)=O)=O | C12H11NO3
